US05229516
B. 1,3,4,9-Tetrahydro-1,1-diethyl-6-(hydroxy)pyrano[3,4-b]indole
A mixture consisting of 10% Pd/c on charcoal (1.0 g), ethanol (125 mL), and 1,3,4,9-tetrahydro-1,1-diethyl-6-(phenylmethoxy)pyrano[3,4-b]indole (6.5 g, 0.0193 mol), of Step A, is hydrogenated at 30 psi for 18 hours. The reaction mixture is filtered and concentrated to give 5.2 g of product which is used in the next reaction without further purification.

reactant | 1,3,4,9-tetrahydro-1,1-diethyl-6-(phenylmethoxy)pyrano[3,4-b]indole | 0.0193 mol, 6.5 g | C(C)C1(OCCC2=C1NC1=CC=C(C=C21)OCC2=CC=CC=C2)CC | C22H25NO2
catalyst | Pd | [Pd] | Pd
solvent | ethanol | 125 mL | C(C)O | C2H6O
product | 1,3,4,9-Tetrahydro-1,1-diethyl-6-(hydroxy)pyrano[3,4-b]indole | 5.2 g | C(C)C1(OCCC2=C1NC1=CC=C(C=C21)O)CC | C15H19NO2
